US05416089
Part B: 7-Nitro-5-azaphenanthrene-1,10-dicarboxylic Anhydride
8-Nitro-10-azaacephenanthrene (3.0 g, 24 mmol) was heated to 70° C. in acetic acid (100 mL) and sodium dichromate dihydrate (18.0 g, 60.4 mmol) was added. The reaction mixture was heated at reflux for 4 h and poured into ice/water. The precipitated solid was collected and dried in vacuo to obtain 1.64 g (34%) of a yellow solid. The crude material was heated at reflux in a mixture of acetic acid (25 mL) and acetic anhydride (5 mL) for 3 h. The mixture was filtered hot and the collected solid was dried in vacuo to give 0.90 g (17%) of a light brown solid: mp 290°-292° C.; MS m/e 312 (M+NH4+); 1H NMR (DMSO-d6, 300 MHz) δ 8.19 (t, J=4.0 Hz, 1H), 8.73 (d, J=7.3 Hz, 1H), 9.33 (s, 1H), 9.54 (d, J=8.0 Hz, 1H), 9.80 (d, J=2.5 Hz, 1H), 9.90 (d, J=2.0 Hz, 1H).

reactant | 8-Nitro-10-azaacephenanthrene | 24 mmol, 3.0 g | [N+](=O)([O-])C=1C=C2C=C3CCC4=CC=CC(C2=NC1)=C43 | C15H10N2O2
reactant | sodium dichromate dihydrate | 60.4 mmol, 18.0 g | O.O.[Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 7-Nitro-5-azaphenanthrene-1,10-dicarboxylic Anhydride | 1.64 g, 34% | [N+](=O)([O-])C1=CN=C2C=3C=CC=C4C3C(=CC2=C1)C(=O)OC4=O | C15H6N2O5
